US09255110B2
Sodium hydride (60% suspension in mineral oil, 0.15 g, 3.75 mmol) was added, at room temperature, to a solution of 4-chloro-2-nitrophenol (0.5 g, 2.88 mmol) in anhydrous N,N-dimethylformamide (15 mL) and the resulting mixture was stirred for 5 minutes. 1-Bromo-3-methoxy-propane (0.485 g, 3.17 mmol) was then added and the reaction mixture was heated at 80° C. for 62 hours. The resulting mixture was partitioned between an aqueous solution of sodium hydroxide (3 M) and ethyl acetate, the organic layer was separated, washed twice with an aqueous solution of sodium hydroxide (3 M) and once with brine, dried over anhydrous sodium sulfate, filtered and evaporated under reduced pressure. The crude residue was purified by flash chromatography (hexane/EtOAc, 90/10 to 50/50) to give 0.455 g (64% yield) of 4-chloro-1-(3-methoxy-propoxy)-2-nitro-benzene as a yellow solid.

reactant | Sodium hydride | 3.75 mmol, 0.15 g | [H-].[Na+]
reactant | 4-chloro-2-nitrophenol | 2.88 mmol, 0.5 g | ClC1=CC(=C(C=C1)O)[N+](=O)[O-] | C6H4ClNO3
reactant | 1-Bromo-3-methoxy-propane | 3.17 mmol, 0.485 g | BrCCCOC | C4H9BrO
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | 4-chloro-1-(3-methoxy-propoxy)-2-nitro-benzene | 0.455 g, 64% yield | ClC1=CC(=C(C=C1)OCCCOC)[N+](=O)[O-] | C10H12ClNO4
